US07713969B2
(±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(2-fluorophenyl)pyrrolidine-2,5-dione was prepared according to Example 40 replacing 2-chloro-4-fluorophenylacetamide with 2-fluorophenylacetamide. Yield 30.6 mg, 8.8%. 1H NMR (DMSO-d6) 400 MHz δ: 11.64 (s, 1H), 7.36 (m, 3H), 7.17 (m, 3H), 6.84 (m, 2H), 4.44 (d, 1H, J=7.2 Hz), 4.40 (d, 1H, J=7.6 Hz), 4.10 (s, 2H), 2.88 (s, 2H), 2.09 (s, 2H).

reactant | 2-chloro-4-fluorophenylacetamide | ClC1=C(C=CC(=C1)F)CC(=O)N | C8H7ClFNO
reactant | 2-fluorophenylacetamide | FC1=C(C=CC=C1)CC(=O)N | C8H8FNO
product | (±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(2-fluorophenyl)pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=C(C=CC=C2)F)=O)=O | C21H17FN2O2
